US04748162
Sodium (5R, 6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate
A solution of p-nitrobenzyl (5R,6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate (50 mg) in THF (9 ml) is diluted with EtOH (4.5 ml) and H2O (7.0 ml) containing NaHCO3 (10.6 mg). The resulting solution is added to a prereduced mixture of 10% Pd/C (100 mg) in EtOH (4.5 ml) and the resulting mixture is rapidly stirred under a H2 atmosphere for 2 hours. The mixture is filtered to remove the catalyst which is washed with H2O (2×25 ml). The combined filtrate is extracted with Et2O (2×50 ml) concentrated under vacuum to ca. 10 ml volume, and lyophilized to yield the title compound.

reactant | p-nitrobenzyl (5R,6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate | 50 mg | CS(=O)C=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2CC)=O | C16H16N2O6S2
reactant | NaHCO3 | 10.6 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | EtOH | 4.5 ml | CCO | C2H6O
solvent | H2O | 7.0 ml | O | H2O
solvent | EtOH | 4.5 ml | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | Sodium (5R, 6S)-2-methylsulfinyl-6-ethyl-pen-2-em-3-carboxylate | CS(=O)C=1S[C@H]2N(C1C(=O)[O-])C([C@@H]2CC)=O.[Na+] | InChI=1S/C9H11NO4S2.Na/c1-3-4-6(11)10-5(8(12)13)9(16(2)14)15-7(4)10;/h4,7H,3H2,1-2H3,(H,12,13);/q;+1/p-1/t4-,7+,16?;/m0./s1
